US04046797
Hydrogen chloride gas (80 grams, 2.2 moles) was bubbled into a mixture of paraformaldehyde (60.2 grams, 2.0 moles), and 2-methyl-3-butyn-2-ol (168.2 grams, 2.0 mole) in methylene chloride (500 ml.) over a 25 minute period, with constant stirring while maintaining the temperature between 2° to 8° C. Upon completion of the addition, the reaction temperature was allowed to rise to 10° C., then the lower organic phase separated, washed with ice water, separated and dried over anhydrous calcium chloride for 18 hours. The methylene chloride was removed by evaporation and the resulting liquid distilled at reduced pressure to give the chloromethyl ether, 1,1-dimethyl-2-propynylchloromethyl ether, 140 grams, 53%, boiling point 54° to 58° C./37 to 40 mm.

reactant | Hydrogen chloride | 2.2 moles, 80 grams | Cl | ClH
reactant | paraformaldehyde | 2.0 moles, 60.2 grams | C=O | CH2O
reactant | 2-methyl-3-butyn-2-ol | 2.0 mole, 168.2 grams | CC(C)(C#C)O | C5H8O
reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 1,1-dimethyl-2-propynylchloromethyl ether | CC(C#C)(C)C(Cl)OC(C(C#C)(C)C)Cl | C12H16Cl2O
